US03931407
1-(4-Hydroxy-3-methoxycarbonylphenyl)-2-phenyl-4,5,6,7-tetrahydroindole ##SPC34##
Hydrogen chloride gas was bubbled through a boiling mixture of 25.0 g. (0.075 mole) of 1-(3-carboxy-4-hydroxyphenyl) 2-phenyl-4,5,6,7-tetrahydroindole and 750 ml. of methanol for 2 hours. The mixture was heated under reflux for 18.5 hours, cooled and filtered to provide 19.6 g. (75%) of white solid. Recrystallization from methanol gave colorless crystals, m.p. 141°-142°.

reactant | 1-(3-carboxy-4-hydroxyphenyl) 2-phenyl-4,5,6,7-tetrahydroindole | 0.075 mole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2CCCCC12)C1=CC=CC=C1 | C21H19NO3
reactant | methanol | CO | CH4O
product | 1-(4-Hydroxy-3-methoxycarbonylphenyl)-2-phenyl-4,5,6,7-tetrahydroindole | OC1=C(C=C(C=C1)N1C(=CC=2CCCCC12)C1=CC=CC=C1)C(=O)OC | C22H21NO3
